US06200970B1
Hydrogen chloride gas that is dried for 7 hours is introduced into a suspension of 15.70 g (72.0 mmol) of 2-(3-chloro-4-methoxyphenyl)-ethanol (L. S. Fosdick i.a., J. Am. Chem. Soc. 68 (1946), 840-843), 10.23 g (72.0 mmol) of nitrobenzaldehyde and 9.18 g (72 mmol) of freshly melted zinc chloride in anhydrous benzene (200 ml). Then, the reaction mixture is diluted with ethyl acetate and washed neutral with water, dried and concentrated by evaporation. The residue is recrystallized from ethyl acetate (60 ml). 10.4 g (45%) of 6-chloro-7-methoxy-1-(4-nitrophenyl)-isochroman, melting point 150-153° C., is obtained.

reactant | 2-(3-chloro-4-methoxyphenyl)-ethanol | 72.0 mmol, 15.70 g | ClC=1C=C(C=CC1OC)CCO | C9H11ClO2
reactant | nitrobenzaldehyde | 72.0 mmol, 10.23 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 6-chloro-7-methoxy-1-(4-nitrophenyl)-isochroman | 10.4 g, 45% | ClC=1C=C2CCOC(C2=CC1OC)C1=CC=C(C=C1)[N+](=O)[O-] | C16H14ClNO4
